### ISSUE TITLE
[BUG] Section 401: Unstable 'grind' Tactic Causes Build Failures

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/us-tax-code-lean#34]
## Problem

**Severity**: HIGH - Build Failure
**Section**: IRC § 401 (Qualified Pension Plans)
**Discovered by**: Gemini 2.5 Flash audit

## Description

The proof for `coverage_passed_if_all_benefit` invokes the `grind` tactic, which is not a standard stable tactic in current Mathlib4 releases. This will likely cause build failures.

## Current Behavior

```lean
theorem coverage_passed_if_all_benefit (all_employees : List Employee)
  (h_non_empty : all_employees.length > 0) :
  check_coverage_410 all_employees all_employees = true := by
    unfold check_coverage_410; aesop;
    grind  -- ❌ Not stable in Mathlib4
```

## Expected Behavior

Use stable tactics like:
- `simp`
- `aesop`
- `linarith`
- `omega`

## Proposed Fix

```lean
theorem coverage_passed_if_all_benefit (all_employees : List Employee)
  (h_non_empty : all_employees.length > 0) :
  check_coverage_410 all_employees all_employees = true := by
    unfold check_coverage_410
    aesop
```

## Impact

- Build may fail in CI/CD
- Code is not portable to stable Mathlib4 releases

## Related Issues

Similar proof fragility found in Section 2001 with `exact?` and `native_decide`.

## Audit Sources

- **Grok-4**: Did not flag this issue
- **Gemini 2.5 Flash**: Identified as "Potential Compilation Error (Tactics)" (7/10 GOOD rating)

## References

See: `NEW_SECTIONS_AUDIT.md` - Section 401
